US07314883B2
(±)-1-[1,4′]Bipiperidinyl-1′-yl-2-(1H-indazol-5-ylamino)-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butane-1,4-dione
To a solution of 2-(1H-indazol-5-ylamino)-4-oxo-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butyric acid ethyl ester (0.069 mmol) in dimethylformamide (0.5 mL) in a capped drum vial was added piperidinylpiperidine (14.3 mg, 0.076 mmol, 1.1 equiv), DEPBT (22.8 mg, 1.1 equiv) and triethylamine (8 drops, ca. 160 μL). The mixture was stirred at room temperature overnight. The final product was purified by preparative HPLC to afford the desired product (15 mg, 26% for two steps) as a tan solid. LC/MS: tR=0.917 min, 613.54 (MH)+.

reactant | 2-(1H-indazol-5-ylamino)-4-oxo-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butyric acid ethyl ester | 0.069 mmol | C(C)OC(C(CC(N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O)NC=1C=C2C=NNC2=CC1)=O | C26H30N6O4
reactant | piperidinylpiperidine | 0.076 mmol, 14.3 mg, 1.1 equiv | N1(CCCCC1)N1CCCCC1 | C10H20N2
reactant | DEPBT | 22.8 mg, 1.1 equiv | CCOP(=O)(OCC)ON1C(=O)C2=C(C=CC=C2)N=N1 | C11H14N3O5P
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
catalyst | triethylamine | 8 drops | C(C)N(CC)CC | C6H15N
product | (±)-1-[1,4′]Bipiperidinyl-1′-yl-2-(1H-indazol-5-ylamino)-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butane-1,4-dione | 15 mg, 26% | N1(CCCCC1)C1CCN(CC1)C(C(CC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)NC=1C=C2C=NNC2=CC1)=O | C34H44N8O3
